************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: LSLH_ISOH_X1_FROM_OFF
* View Name:     schematic
* Netlisted on:  Jun  4 07:43:52 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    LSLH_ISOH_X1_FROM_OFF
* View Name:    schematic
************************************************************************

.SUBCKT LSLH_ISOH_X1_FROM_OFF A ExtVDD ISO VDD VSS Y
*.PININFO A:I ExtVDD:I ISO:I VDD:I VSS:I Y:O
Mmn0 Y Ybint GatedVSS VSS g45n1svt m=1 l=45n w=260n
MNM3 GatedVSS ison VSS VSS g45n1svt m=1 l=45n w=1.04u
MNM2 GatedVSS A Ab VSS g45n1svt m=1 l=45n w=145n
MNM0 Ybint A GatedVSS VSS g45n1svt m=1 l=45n w=780n
MNM1 Yint Ab GatedVSS VSS g45n1svt m=1 l=45n w=780n
MNM4 VSS ISO ison VSS g45n1svt m=1 l=45n w=145n
MPM0 Ybint Yint ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
MPM4 Y ison ExtVDD ExtVDD g45p1svt m=1 l=45n w=390n
MPM1 Yint Ybint ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
Mmp0 Y Ybint ExtVDD ExtVDD g45p1svt m=1 l=45n w=390n
MPM2 Ab A VDD VDD g45p1svt m=1 l=45n w=215n
MPM5 ison ISO ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
.ENDS

