************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: MDFFHQX4
* View Name:     schematic
* Netlisted on:  Jun  4 07:44:09 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    MDFFHQX4
* View Name:    schematic
************************************************************************

.SUBCKT MDFFHQX4 CK D0 D1 Q S0 VDD VSS
*.PININFO CK:I D0:I D1:I S0:I VDD:I VSS:I Q:O
Mmn13 n12 D1 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn14 D0b S0 n12 VSS g45n1svt m=1 l=45n w=260n
Mmn12 D0b S0b n10 VSS g45n1svt m=1 l=45n w=260n
Mmn11 n10 D0 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn50 n35 qbint VSS VSS g45n1svt m=1 l=45n w=205n
Mmn51 n30 CKb n35 VSS g45n1svt m=1 l=45n w=205n
Mmn10 S0b S0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 mout CKbb n30 VSS g45n1svt m=1 l=45n w=205n
Mmn35 n25 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 CKbb n25 VSS g45n1svt m=1 l=45n w=205n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=410n
Mmn25 D0b CKb n20 VSS g45n1svt m=1 l=45n w=205n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmp14 D0b S0b n13 VDD g45p1svt m=1 l=45n w=390n
Mmp13 n13 D1 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp12 D0b S0 n11 VDD g45p1svt m=1 l=45n w=390n
Mmp11 n11 D0 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp51 n30 CKbb n36 VDD g45p1svt m=1 l=45n w=310n
Mmp50 n36 qbint VDD VDD g45p1svt m=1 l=45n w=310n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp35 n26 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp36 n20 CKb n26 VDD g45p1svt m=1 l=45n w=310n
Mmp25 n20 CKbb D0b VDD g45p1svt m=1 l=45n w=310n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=310n
Mmp10 S0b S0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=620n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

