************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: MX3X1
* View Name:     schematic
* Netlisted on:  Jun  4 07:44:23 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    MX3X1
* View Name:    schematic
************************************************************************

.SUBCKT MX3X1 A B C S0 S1 VDD VSS Y
*.PININFO A:I B:I C:I S0:I S1:I VDD:I VSS:I Y:O
Mmn7 net245 C VSS VSS g45n1svt m=1 l=45n w=145n
Mmn8 n1 S1 net245 VSS g45n1svt m=1 l=45n w=145n
Mmn4 net234 B VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 n0 S0 net234 VSS g45n1svt m=1 l=45n w=145n
Mmn3 n0 S0b net229 VSS g45n1svt m=1 l=45n w=145n
Mmn2 net229 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn9 Y n1 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn0 S0b S0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 S1b S1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 n1 S1b n0 VSS g45n1svt m=1 l=45n w=145n
Mmp8 n1 S1b net202 VDD g45p1svt m=1 l=45n w=215n
Mmp7 net202 C VDD VDD g45p1svt m=1 l=45n w=215n
Mmp5 n0 S0b net190 VDD g45p1svt m=1 l=45n w=215n
Mmp4 net190 B VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 n0 S0 net189 VDD g45p1svt m=1 l=45n w=215n
Mmp2 net189 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp9 Y n1 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp1 S1b S1 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp6 n0 S1 n1 VDD g45p1svt m=1 l=45n w=215n
Mmp0 S0b S0 VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

